US05739351
5.2 g of potassium carbonate and 40 cm3 of 1,3-dibromopropane are added to a solution of 4.84 g of benzyl [(2-hydroxy)phenyl]acetate in 100 cm3 of acetonitrile. The mixture is stirred at the reflux temperature for 20 hours and then cooled to room temperature before being filtered. The filtrate is concentrated to dryness under reduced pressure and the residue obtained is taken up in 200 cm3 of ethyl acetate. The solution is washed with twice 100 cm3 of water then with 150 cm3 of brine, and is dried over magnesium sulphate and concentrated under reduced pressure (2.7 kPa). The oil obtained is chromatographed on a silica gel column (particle size 0.06-0.200 height 30 cm, diameter 5 cm), eluting with a mixture of cyclohexane and ethyl acetate (95:5 by volume) and collecting fractions of 100 cm3. Fractions 18 to 28 are concentrated to dryness under reduced pressure (2.7 kPa). 2.0 g of benzyl [2-(3-bromopropoxy)phenyl]acetate are obtained in the form of an oil.

reactant | potassium carbonate | 5.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 40 cm3 | BrCCCBr | C3H6Br2
reactant | benzyl [(2-hydroxy)phenyl]acetate | 4.84 g | OC1=C(C=CC=C1)CC(=O)OCC1=CC=CC=C1 | C15H14O3
solvent | acetonitrile | 100 cm3 | C(C)#N | C2H3N
solvent | ethyl acetate | 200 cm3 | C(C)(=O)OCC | C4H8O2
product | benzyl [2-(3-bromopropoxy)phenyl]acetate | 2.0 g | BrCCCOC1=C(C=CC=C1)CC(=O)OCC1=CC=CC=C1 | C18H19BrO3
